US07442713B2
Ethyl 3-{2-[4-(4-fluorophenyl)-1-methyl-5-pyridin-4-yl-1H-imidazol-2-ylsulfanyl]acetylamino}propionate
2-[4-(4-Fluorophenyl)-1-methyl-5-pyridin-4-yl-1H-imidazol-2-ylsulfanyl]acetic acid (2 mmol/0.688 g) is dissolved in 100 ml of absolute tetrahydrofuran (THF), carbonyldiimidazole (2 mmol/0.324 g) is added and the mixture is stirred at room temperature until the evolution of carbon dioxide has ceased. Ethyl ss-alaninate (2 mmol) is then added, and the mixture is heated under reflux for 2 h. The mixture is then poured into 400 ml of 1 N Na2CO3 solution and concentrated in a rotary evaporator. The residue is extracted 3 times with in each case 150 ml of dichloromethane/ethanol 1:1, dried over sodium sulfate and concentrated in a rotary evaporator. The residue is dissolved in a little acetone and re-precipitated using diethyl ether. The precipitate formed is filtered off with suction and dried over P2O5.

reactant | 2-[4-(4-Fluorophenyl)-1-methyl-5-pyridin-4-yl-1H-imidazol-2-ylsulfanyl]acetic acid | 2 mmol, 0.688 g | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=NC=C1)C)SCC(=O)O | C17H14FN3O2S
reactant | carbonyldiimidazole | 2 mmol, 0.324 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | carbon dioxide | C(=O)=O | CO2
reactant | alaninate | 2 mmol | N[C@@H](C)C(=O)[O-]
reactant | Na2CO3 | 1 N, 400 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Ethyl 3-{2-[4-(4-fluorophenyl)-1-methyl-5-pyridin-4-yl-1H-imidazol-2-ylsulfanyl]acetylamino}propionate | FC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=NC=C1)C)SCC(=O)NCCC(=O)OCC | C22H23FN4O3S
